US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-5-(1,3,4-oxadiazol-2-yl)benzamido)-4-phenylbenzoate (0.049 g) in ethyl acetate (1 mL) and methanol (1 mL), 10% palladium-carbon (25 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. Ethyl acetate was added to the reaction mixture, and the insoluble substance was removed by filtration. The solvent was evaporated under reduced pressure, and diisopropyl ether was added to the obtained residue. The solid substance was collected by filtration to obtain 0.034 g of tert-butyl 2-(2-hydroxy-5-(1,3,4-oxadiazol-2-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | tert-butyl 2-(2-(benzyloxy)-5-(1,3,4-oxadiazol-2-yl)benzamido)-4-phenylbenzoate | 0.049 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C=1OC=NN1 | C33H29N3O5
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 mL | CO | CH4O
catalyst | palladium-carbon | 25 mg | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-5-(1,3,4-oxadiazol-2-yl)benzamido)-4-phenylbenzoate | 0.034 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C=1OC=NN1 | C26H23N3O5
